US05750696
N-(4-methylpiperidino)carbonyl-L-phenylalanine benzyl ester
Trichloromethyl chloroformate (0.44 ml) was added to a solution of triethylamine (1.48 g) in dry tetrahydrofuran (15 ml) under ice-cooling and a solution of L-phenylalanine benzyl ester (1.27 g) in dry tetrahydrofuran (7.5 ml) was dropwise added slowly. Then, a solution of 4-methylpiperidine (1.15 ml) in dry tetrahydrofuran (7.5 ml) was dropwise added. The mixture was stirred at room temperature for 1 hour. The resulting salt was collected by filtration and washed with ethyl acetate (70 ml). The combined filtrate was washed twice with 0.1N hydrochloric acid, twice with a saturated aqueous solution of NaHCO3 and saturated brine, and dried over MgSO4. The solvent was distilled away under reduced pressure. The residue was purified by silica gel column chromatography (eluted with AcOEt/Hex=4/6 v/v) to give 1.86 g of the title compound as a colorless oil (see Table 11).

reactant | Trichloromethyl chloroformate | 0.44 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | triethylamine | 1.48 g | C(C)N(CC)CC | C6H15N
reactant | L-phenylalanine benzyl ester | 1.27 g | C(C1=CC=CC=C1)OC([C@@H](N)CC1=CC=CC=C1)=O | C16H17NO2
reactant | 4-methylpiperidine | 1.15 ml | CC1CCNCC1 | C6H13N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.5 ml | O1CCCC1 | C4H8O
product | N-(4-methylpiperidino)carbonyl-L-phenylalanine benzyl ester | 1.86 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)N1CCC(CC1)C)CC1=CC=CC=C1)=O | C23H28N2O3
